US08030498B2
The 2,2-dimethoxyethyl 3-(2,2-dimethoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoate obtained in the above step (1) was dissolved in methanol (20 mL), and an aqueous sodium hydroxide solution (2 mL) at a concentration of 20% was added thereto at room temperature. After stirring for 30 minutes, 100 mL of 1N hydrochloric acid was added to the reaction solution, followed by extraction with ethyl acetate. (200 mL). The organic layer was washed twice with a saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 3-(2,2-dimethoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoic acid (390 mg) as a white solid.

reactant | 2,2-dimethoxyethyl 3-(2,2-dimethoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoate | COC(COC=1C(=C(C(=O)OCC(OC)OC)C=CC1S(=O)(=O)C)C)OC | C17H26O9S
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 3-(2,2-dimethoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoic acid | 390 mg | COC(COC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C)OC | C13H18O7S
